US06498165B1
2-[4-Chlorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 4-chlorobenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 336.0 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.59 (s, 1H); 8.43 (d, J=4.6 Hz, 1H); 8.02 (br s, 1H); 7.86 (m, 1H); 6.86 (d, J=5.5 Hz, 1H); 5.79 (br s, 1H ); 4.73 (d, J=5.9 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 2-[4-Chlorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine | ClC1=CC=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=C1 | C18H14ClN5
